US03957811
A solution consisting of 558 mg. of 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[p-benzyloxybenzyl]tetrazol-5-yl)penam, 156 mg. of p-toluenesulfonic acid monohydrate and 1 ml. of acetone is stored at ambient temperature for 2.5 hrs. It is then added with stirring to 50 ml. of ether. After stirring for a further 10 min., the solid which precipitates is filtered. This affords 394 mg. of the p-toluenesulfonate of the product. A 304-mg. aliquot of this p-toluenesulfonate salt is dissolved in 10 ml. of methylene chloride, and to the solution is added 69.7 μl. of triethylamine. After 3 min., 5 ml. of water is added and the mixture is stirred vigorously. The organic phase is then separated off, diluted with ether, dried over anhydrous magnesium sulfate, and evaporated to dryness in vacuo. The residue is 189 mg. (69% yield) of 6-amino-2,2-dimethyl-3-(1-[p-benzyloxybenzyl]tetrazol-5-yl)penam. The NMR spectrum (in CDCl3) of the product shows absorption bands at 7.40 ppm (singlet, phenyl hydrogens), 7.15 ppm (quartet, phenylene hydrogens), 5.55 ppm (broad singlet, C-5 and benzyl hydrogens), 5.20 ppm (singlet, C-3 hydrogens), 5.10 ppm (singlet, benzyl hydrogens), 4.60 ppm (doublet, C-6 hydrogen), 1.50 ppm (singlet, C-2 methyl hydrogens) and 0.90 ppm (singlet, C-2 hydrogens).

reactant | 6-(triphenylmethylamino)-2,2-dimethyl-3-(1-[p-benzyloxybenzyl]tetrazol-5-yl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1=O | C41H38N6O2S
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acetone | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | 6-amino-2,2-dimethyl-3-(1-[p-benzyloxybenzyl]tetrazol-5-yl)penam | 69% yield | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1=O | C22H24N6O2S
